* Pure resistive load test: Rload=100 (50mA at regulation)
.title ILIM_RONLY
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "sky130_top.lib.spice" tt
.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir
Vbvdd bvdd 0 PWL(0 0 10u 7 100 7)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0
* Pure resistive load: 100 ohm → 50mA at 5V
Rload pvdd 0 100
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator
.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 50m uic
.control
run
echo "=== Rload=100 (50mA target) ==="
let pvdd_f = v(pvdd)[length(v(pvdd))-1]
let iload_f = pvdd_f / 100 * 1000
echo "PVDD:"
print pvdd_f
echo "Iload (mA):"
print iload_f
echo "Gate:"
print v(xdut.gate)[length(v(xdut.gate))-1]
echo "sense_out:"
print v(xdut.xilim.sense_out)[length(v(xdut.xilim.sense_out))-1]
echo "det_n:"
print v(xdut.xilim.det_n)[length(v(xdut.xilim.det_n))-1]
quit
.endc
.end
